US06310243B1
a.3.5-Bis-(Acetoxyacetamido)-2,4,6-triiodo-(2,3-diacetoxypropyl)benzene
The product in Example 64e, 3,5-diamino-2,4,6-triiodo-(2,3-diacetoxypropyl)benzene was acylated using acetoxyacetyl chloride according to the general procedure in Example 24i. After chromatography on silica gel using methylene chloride/acetonitrile (3/1) as the eluent the product was isolated in 64% yield.

reactant | 3,5-diamino-2,4,6-triiodo-(2,3-diacetoxypropyl)benzene | NC=1C(=C(C(=C(C1I)N)I)CC(COC(C)=O)OC(C)=O)I | C13H15I3N2O4
reactant | acetoxyacetyl chloride | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | methylene chloride acetonitrile | C(Cl)Cl.C(C)#N
product | 3.5-Bis-(Acetoxyacetamido)-2,4,6-triiodo-(2,3-diacetoxypropyl)benzene | 64% yield | C(C)(=O)OCC(=O)NC=1C(=C(C(=C(C1I)NC(COC(C)=O)=O)I)CC(COC(C)=O)OC(C)=O)I | C21H23I3N2O10
